US04110456
2-(4-chlorophenyl)imidazole (6 g., 0.034 mole) was added portionwise at room temperature with stirring to chlorosulfonic acid (30 ml.). The mixture was heated 2 hours at 100° and cooled to room temperature. Thionyl chloride (3 g.) was added and the mixture again heated for 2 hours at 100°. After cooling to room temperature the mixture was added cautiously to ice and water. A semi-solid separated and was extracted with ether. The ether layer was dried and concentrated to yield 2-(4-chlorophenyl)-4-chlorosulfonylimidazole (1.3 g., 0.005 mole).

reactant | 2-(4-chlorophenyl)imidazole | 0.034 mole, 6 g | ClC1=CC=C(C=C1)C=1NC=CN1 | C9H7ClN2
reactant | chlorosulfonic acid | 30 ml | ClS(=O)(=O)O | ClHO3S
reactant | Thionyl chloride | 3 g | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | 2-(4-chlorophenyl)-4-chlorosulfonylimidazole | 0.005 mole, 1.3 g | ClC1=CC=C(C=C1)C=1NC=C(N1)S(=O)(=O)Cl | C9H6Cl2N2O2S
